US07566781B2
Methyl 4-(1-hydroxy-2-pyridin-2-ylethyl)benzenecarboxylate
With cooling with ice, a hexane solution (48 mL) of 2.6 N n-butyllithium was added to a THF solution (300 mL) of diisopropylamine (18 mL), stirred at 0° C. for 5 minutes, and then cooled to −78° C. Next, 2-picoline (10 g) was dropwise added thereto, and stirred at that temperature for 30 minutes. THF solution (100 mL) of methyl 4-formylbenzenecarboxylate (17.6 g) was added thereto, and stirred at −78° C. for 30 minutes and then at room temperature for 4 hours. Aqueous saturated ammonium chloride solution was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with aqueous saturated ammonium chloride solution and saturated saline water, and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain the entitled compound (1.5 g) as a colorless solid.

reactant | n-butyllithium | 2.6 N | C(CCC)[Li]
reactant | diisopropylamine | 18 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-picoline | 10 g | N1=C(C=CC=C1)C | C6H7N
reactant | methyl 4-formylbenzenecarboxylate | 17.6 g | C(=O)C1=CC=C(C=C1)C(=O)OC | C9H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | 48 mL | CCCCCC | C6H14
product | Methyl 4-(1-hydroxy-2-pyridin-2-ylethyl)benzenecarboxylate | 1.5 g | OC(CC1=NC=CC=C1)C1=CC=C(C=C1)C(=O)OC | C15H15NO3
